US08729099B2
a) 2,3,4,6-Tetra-O-benzyl-1,5-di-O-mesyl-D-glucitol
2,3,4,6-Tetra-O-benzyl-D-glucitol (45 g) was dissolved in pyridine (200 ml) and added over 30 min to a solution of mesyl chloride (15 ml) in pyridine (100 ml) at 0° C. The clear solution was stored at 4° C. overnight, after which time TLC analysis showed completion of the reaction. The reaction mixture was partitioned between ethyl acetate and water/ice. The organic fractions were washed with 5% hydrochloric acid then saturated aqueous sodium bicarbonate solution, dried (Na2SO4) and concentrated to a yellow/orange oil. The oil was azeotroped with toluene and used directly in the next stage.

reactant | 2,3,4,6-Tetra-O-benzyl-D-glucitol | 45 g | C(C1=CC=CC=C1)O[C@@H](CO)[C@@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@H](O)COCC1=CC=CC=C1 | C34H38O6
reactant | mesyl chloride | 15 ml | S(=O)(=O)(C)Cl | CH3ClO2S
solvent | pyridine | 200 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 2,3,4,6-Tetra-O-benzyl-1,5-di-O-mesyl-D-glucitol | C(C1=CC=CC=C1)O[C@@H](COS(=O)(=O)C)[C@@H](OCC1=CC=CC=C1)[C@H](OCC1=CC=CC=C1)[C@H](OS(=O)(=O)C)COCC1=CC=CC=C1 | C36H42O10S2
